US05521147
By the method of Example 3, Step C, 1.94 g (0.013 mole) of 7-amino-2,3-dihydro-3-benzofuranone and 1.74 g (0.013 mole) of N-chlorosuccinimide are reacted in 40 mL of N,N-dimethylformamide, yielding 7-amino-4-chloro-2,3-dihydro-3-benzofuranone.

reactant | 7-amino-2,3-dihydro-3-benzofuranone | 0.013 mole, 1.94 g | NC1=CC=CC=2C(COC21)=O | C8H7NO2
reactant | N-chlorosuccinimide | 0.013 mole, 1.74 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 7-amino-4-chloro-2,3-dihydro-3-benzofuranone | NC1=CC=C(C=2C(COC21)=O)Cl | C8H6ClNO2
